US05180733
Step 3: 2-(3-Chlorophenyl)-1-nitroethane
A solution of 13.5 g (72 mmol) of 2-(3-Chlorophenyl)-1-nitroethene, from Step 2, in 200 mL of dioxane was added dropwise to a stirred suspension of 6 g (157 mmol) of sodium borohydride in a mixture of 140 mL of dioxane and 60 mL of ethanol. The reaction mixture was stirred at ambient temperature for 2 h and then the excess borohydride was quenched with acid. The reaction mixture was concentrated in vacuo and the residue was partitioned between methylene chloride and water (4:1). The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified on silica gel eluted with 20% methylene chloride in hexane to afford 6.3 g (48% yield) of the title compound; MS DCI-NH3M/Z: 203 (M+NH4)+ ; 1H NMR (CDCl3) δ3.3 (2H, t, J=7.5 Hz), 4.6 (2H, t, J=7.5 Hz), 7.05-7.3 (4H, m).

reactant | 2-(3-Chlorophenyl)-1-nitroethene | 72 mmol, 13.5 g | ClC=1C=C(C=CC1)C=C[N+](=O)[O-] | C8H6ClNO2
reactant | sodium borohydride | 157 mmol, 6 g | [BH4-].[Na+]
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 140 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 2-(3-Chlorophenyl)-1-nitroethane | 6.3 g, 48% yield | ClC=1C=C(C=CC1)CC[N+](=O)[O-] | C8H8ClNO2
